US05010100
5-Iodovanillin (223.76 g, 0.805 mole) was dissolved in dry THF (1.12 L) and to this solution was added bis-trimethylsilylacetamide (208.8 mL, 0.845 mole). The mixture was stirred for 3-4 hours under nitrogen, then evaporated under vacuum to remove THF and excess silylacetamide to provide 5-iodo-4-trimethylsilyloxy-3-methoxybenzaldehyde as an orange colored oil in near quantitative yield, which was used without further purification.

reactant | 5-Iodovanillin | 0.805 mole, 223.76 g | IC=1C(=C(C=C(C=O)C1)OC)O | C8H7IO3
reactant | bis-trimethylsilylacetamide | 0.845 mole, 208.8 mL | C[Si](C)(C)C(C(=O)N)[Si](C)(C)C | C8H21NOSi2
solvent | THF | 1.12 L | C1CCOC1 | C4H8O
product | 5-iodo-4-trimethylsilyloxy-3-methoxybenzaldehyde | quantitative yield | IC=1C(=C(C=C(C=O)C1)OC)O[Si](C)(C)C | C11H15IO3Si
